US05688798
A suspension of 0.17 g (0.00088 mol) of 5-chloromethyl-2-methyl-pyrimidin-4-ylamine in 10 ml of dimethylformamide was treated with 0.30 ml (0.0021 mol) of triethylamine and 0.184 g (0.00088 mol) of 7-phenyl-1,2,3,4-tetrahydro-isoquinoline and the mixture was stirred at room temperature under argon for 18 hours. The solvent was distilled off in a high vacuum. The residue was partitioned between dichloromethane/water, extracted and dried over MgSO4. After removing the solvent the residue was chromatographed over silica gel with ethyl acetate as the eluent. 0.22 g (76%) of 2-methyl-5-(7-phenyl-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-pyrimidin-4-ylamine was obtained as a light yellowish solid; m.p. 147°-149°.

reactant | 5-chloromethyl-2-methyl-pyrimidin-4-ylamine | 0.00088 mol, 0.17 g | ClCC=1C(=NC(=NC1)C)N | C6H8ClN3
reactant | triethylamine | 0.0021 mol, 0.30 ml | C(C)N(CC)CC | C6H15N
reactant | 7-phenyl-1,2,3,4-tetrahydro-isoquinoline | 0.00088 mol, 0.184 g | C1(=CC=CC=C1)C1=CC=C2CCNCC2=C1 | C15H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-methyl-5-(7-phenyl-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-pyrimidin-4-ylamine | 0.22 g, 76% | CC1=NC=C(C(=N1)N)CN1CC2=CC(=CC=C2CC1)C1=CC=CC=C1 | C21H22N4
